US05463129
To a 100 mL round-bottom flask is added 2.14 g (10 mmol) of 5-methoxy-2,4-dinitrophenol (MDNP) and 1.31 g (12 mmol) of DMF-HCl in 30 mL of N,N-dimethylformamide (DMF). This mixture is stirred at 130° C. and monitored by High Pressure Liquid Chromatography (HPLC). After 8.5 hours essentially no MDNP is observed by HPLC. The reaction mixture is poured into 100 mL of 1N HCl, and extracted with ethyl acetate (EtOAc, 3×30 mL). The combined organics are washed with a single portion of 0.1N HCl, dried (Na2SO4) and concentrated by rotary evaporation to give crude 4,6-dinitroresorcinol (DNR) as a yellow solid (1.9 g, 95% yield): melting point (m.p.) 205° C. to 210° C., 1H NMR (CDCl3)δ11.03 (s,2H), 9.08 (s,1H), 6.82 (s,1H).

reactant | 5-methoxy-2,4-dinitrophenol | 10 mmol, 2.14 g | COC=1C(=CC(=C(C1)O)[N+](=O)[O-])[N+](=O)[O-] | C7H6N2O6
reactant | DMF HCl | 12 mmol, 1.31 g | CN(C=O)C.Cl
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4,6-dinitroresorcinol | 1.9 g, 95% yield | [N+](=O)([O-])C1=C(C=C(O)C(=C1)[N+](=O)[O-])O | C6H4N2O6
